US04618617
To a solution of 2.62 g of 5-(3-fluoro-4-phenyl-α-methylbenzyl)-3-(2-hydroxyethyl)-1,2,4-oxadiazole in 60 ml of dry benzene was successively added 2.0 g of thionyl chloride and 0.67 g of pyridine with ice-cooling. After stirring and heating with reflux for 1 hour, the reaction mixture was washed with water. The organic phase was further washed with water, dried over sodium sulfate and evaporated. The residue was chromatographed over silica gel using benzene to give 2.44 g of 3-(2-chloroethyl)-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole, m.p. 72°-72.5° C.

reactant | 5-(3-fluoro-4-phenyl-α-methylbenzyl)-3-(2-hydroxyethyl)-1,2,4-oxadiazole | 2.62 g | FC=1C=C(C(C)C2=NC(=NO2)CCO)C=CC1C1=CC=CC=C1 | C18H17FN2O2
reactant | thionyl chloride | 2.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.67 g | N1=CC=CC=C1 | C5H5N
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 3-(2-chloroethyl)-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole | 2.44 g | ClCCC1=NOC(=N1)C(C1=CC(=C(C=C1)C1=CC=CC=C1)F)C | C18H16ClFN2O
